US07053089B2
To a solution of 5 g of 4-(N-methoxy-N-methyl-carbamoyl)-piperidine-1-carboxylic acid benzyl ester (S. Nahm and S. W. Weinreb, Tetrahedron Letters, 22:3815–3818(1981)) in 50 mL of anhydrous THF cooled to 0° C., was added dropwise 6 mL of 3M methylmagnesium bromide in ether over 10 minutes. After stirring for 1 h at 0° C., the resulting mixture was quenched with 50 mL of 1N HCl and extracted with 3×50 mL of ether. The combined extracts were dried over magnesium sulfate and concentrated to dryness under reduced pressure. Drying under vacuum gave 4-Acetyl-piperidine-1-carboxylic acid benzyl ester as a white solid:

reactant | 4-(N-methoxy-N-methyl-carbamoyl)-piperidine-1-carboxylic acid benzyl ester | 5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(N(C)OC)=O | C16H22N2O4
reactant | methylmagnesium bromide | 3M, 6 mL | C[Mg]Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-Acetyl-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(C)=O | C15H19NO3
